US04083983
A solution of 2-[2-aminoethylthiomethyl]-3-methoxypyridine in ethanol is added to a stirred solution of N-benzoyl dimethyldithioimidocarbonate in ethanol and the mixture is stirred overnight at room temperature. The purified product is treated with methylamine in ethanol and the resultant benzoylguanidine is hydrolysed by refluxing with aqueous hydrochloric acid to give N-methyl-N'-[2-(3-methoxy-2-pyridylmethylthio)ethyl]guanidine.

reactant | 2-[2-aminoethylthiomethyl]-3-methoxypyridine | NCCSCC1=NC=CC=C1OC | C9H14N2OS
reactant | methylamine | CN | CH5N
reactant | benzoylguanidine | C(C1=CC=CC=C1)(=O)NC(=N)N | C8H9N3O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | N-methyl-N'-[2-(3-methoxy-2-pyridylmethylthio)ethyl]guanidine | CNC(=N)NCCSCC1=NC=CC=C1OC | C11H18N4OS
